US09340546B2
TFA (1 mL, 12.98 mmol) was added to a stirred solution of tert-butyl 4-[(4-methyl-2-oxo-piperazin-1-yl)methyl]piperidine-1-carboxylate (98 mg, 0.3147 mmol) in DCM (2 mL) and the reaction stirred at ambient temperature for 16 hours. The solvent was removed in vacuo and the residue azeotroped with DCM (×2) and ether (×2). The residue was passed through a 5 g SCX-2 cartridge and washed with MeOH/DCM mixtures. The product was eluted by washing the cartridge with 2M NH3 in MeOH/DCM mixtures. The solvent was removed in vacuo to give 4-methyl-1-(piperidin-4-ylmethyl)piperazin-2-one as a colourless oil (65 mg, 98% Yield). MS (ES+) 212.0.

reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-[(4-methyl-2-oxo-piperazin-1-yl)methyl]piperidine-1-carboxylate | 0.3147 mmol, 98 mg | CN1CC(N(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C16H29N3O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-methyl-1-(piperidin-4-ylmethyl)piperazin-2-one | 65 mg, 98% Yield | CN1CC(N(CC1)CC1CCNCC1)=O | C11H21N3O
